US08937091B2
4-bromo-2-methoxy-1-acryloylbenzene 8203
3-methoxybromobenzene (0.5 mL), acryloyl chloride (110 mg), and aluminium chloride (160 mg) were reacted in dichloromethane (1.5 mL) at from 0° C. to room temperature for 4 hours. The resultant was treated in the same manner as described in Example 1 to obtain the title compound (8.0 mg).

reactant | 3-methoxybromobenzene | 0.5 mL | COC=1C=C(C=CC1)Br | C7H7BrO
reactant | acryloyl chloride | 110 mg | C(C=C)(=O)Cl | C3H3ClO
reactant | aluminium chloride | 160 mg | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | 4-bromo-2-methoxy-1-acryloylbenzene | 8.0 mg | BrC1=CC(=C(C=C1)C(C=C)=O)OC | C10H9BrO2
